US09061067B2
17,17-Bis(5-tetrazolyl)heptadecanoic acid
17,17-Bis(5-tetrazolyl)heptadecanoic acid methyl ester (1.70 g, 4.04 mmol) was dissolved in MeOH (40 ml), and a solution of NaOH (1.17 g, 29 mmol) in water (3 ml) was added. After stirring at room temperature for 19 h no more starting ester could be detected by 1H NMR, and the mixture was diluted with a mixture of water (130 ml) and 1N HCl (50 ml). The product was isolated by filtration, washed with water, and recrystallized from boiling MeCN (40 ml), to yield 0.53 g (32%) of the title compound as a solid. From the mother liquor more product (0.39 g) could be obtained. Total yield: 0.92 g, 56%.

reactant | 17,17-Bis(5-tetrazolyl)heptadecanoic acid methyl ester | 4.04 mmol, 1.70 g | COC(CCCCCCCCCCCCCCCC(C1=NN=NN1)C1=NN=NN1)=O | C20H36N8O2
reactant | NaOH | 29 mmol, 1.17 g | [OH-].[Na+]
solvent | MeOH | 40 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
solvent | water | 130 ml | O | H2O
solvent | HCl | 1N, 50 ml | Cl | ClH
product | 17,17-Bis(5-tetrazolyl)heptadecanoic acid | 0.53 g, 32% | N1N=NN=C1C(CCCCCCCCCCCCCCCC(=O)O)C1=NN=NN1 | C19H34N8O2
